US07087605B2
7-(Cyclohexylmethyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.52 mmol) crude 2-cyclohexyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | 2-cyclohexyl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]acetamide | 0.52 mmol, 200 mg | C1(CCCCC1)CC(=O)NC(CC)C=1C(NC(=NN1)C1CCCC1)=O | C19H30N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(Cyclohexylmethyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCCC1)CC1=NC(=C2C(NC(=NN21)C2CCCC2)=O)CC | C19H28N4O
